US07964608B2
3-Benzo[1,3]dioxol-5-yl-1-(1-methanesulfonyl-piperidin-4-yl)-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (45 mg) was prepared according to general procedure H from 3-Benzo[1,3]dioxol-5-yl-7-methoxy-1-piperidin-4-yl-1H-pyrimido[5,4-c]quinoline-2,4-dione.dihydrochloride (50 mg, 0.1 mmol) and methanesulfonyl chloride. LCMS: m/z 525 [M+1]+. 1H NMR (400 MHz, CDCl3): δ 9.52 (s, 1H), 7.15 (m, 1H), 7.08 (m, 1H), 6.92 (m, 1H), 6.86 (m, 1H), 6.70-6.76 (m, 2H), 6.19 (s, 1H), 6.12 (s, 1H), 5.09 (m, 1H), 4.38 (m, 1H), 4.18 (m, 2H), 4.07 (s, 3H), 3.26 (m, 2H), 2.91 (m, 2H), 2.68 (m, 2H), 1.78 (m, 2H), 1.14 (t, 3H) ppm.

reactant | 3-Benzo[1,3]dioxol-5-yl-7-methoxy-1-piperidin-4-yl-1H-pyrimido[5,4-c]quinoline-2,4-dione.dihydrochloride | 0.1 mmol, 50 mg | Cl.Cl.O1COC2=C1C=CC(=C2)N2C(N(C1=C(C=NC=3C(=CC=CC13)OC)C2=O)C2CCNCC2)=O
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 3-Benzo[1,3]dioxol-5-yl-1-(1-methanesulfonyl-piperidin-4-yl)-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione | 45 mg | O1COC2=C1C=CC(=C2)N2C(N(C1=C(C=NC=3C(=CC=CC13)OC)C2=O)C2CCN(CC2)S(=O)(=O)C)=O | C25H24N4O7S
